US09326516B2
N-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-4-(4-(trifluoromethyl)phenyl)-5,6-dihydro-4H-1,3-oxazin-2-amine (F45)
The title compound was prepared with 3-amino-3-(4-(trifluoromethyl)phenyl)propan-1-ol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.10 g, 43%).

reactant | 3-amino-3-(4-(trifluoromethyl)phenyl)propan-1-ol | NC(CCO)C1=CC=C(C=C1)C(F)(F)F | C10H12F3NO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | N-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-4-(4-(trifluoromethyl)phenyl)-5,6-dihydro-4H-1,3-oxazin-2-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)NC=1OCCC(N1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C26H19F6N5O2
